US05684203
4-Nitrodiphenylamine
1.23 g (10 mmol) of nitrobenzene, 2.12 g (10 mmol) of N,N'-diphenylurea and 1.2 g (30 mmol) of NaOH micropills are heated to 50° C. for 23 h in 30 ml of absolute DMSO, passing through an airstream. After work-up using ethyl acetate and soda solution, 2.0 g (9.3 mmol, 93%) of product are obtained which melts at 128° C. after recrystallization from cyclohexane.

reactant | nitrobenzene | 10 mmol, 1.23 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | N,N'-diphenylurea | 10 mmol, 2.12 g | C1(=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H12N2O
reactant | NaOH | 30 mmol, 1.2 g | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 4-Nitrodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H10N2O2
